US08012966B2
N-{3-[3-Methyl-4-oxo-5-(2-piperidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indol-5-yl}-acetamide
The title compound was prepared under the same conditions as described in Example 25 with 3-methyl-4-oxo-5-(2-piperidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and 5-acetamino-1,3-dihydro-indol-2-one as starting materials to give N-{3-[3-methyl-4-oxo-5-(2-piperidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indol-5-yl}-acetamide (55 mg, 69.7%) as an orange solid.

reactant | 3-methyl-4-oxo-5-(2-piperidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | CC1=C(NC2=C1C(N(CC2)CCN2CCCCC2)=O)C=O | C16H23N3O2
reactant | 5-acetamino-1,3-dihydro-indol-2-one | N(C(=O)C)C=1C=C2CC(NC2=CC1)=O | C10H10N2O2
product | N-{3-[3-methyl-4-oxo-5-(2-piperidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indol-5-yl}-acetamide | 55 mg, 69.7% | CC1=C(NC2=C1C(N(CC2)CCN2CCCCC2)=O)C=C2C(NC1=CC=C(C=C21)NC(C)=O)=O | C26H31N5O3
